US05843950
Synthesis of 2,6-dimethyl-4-n-propyl-1,4-dihydropyridine-3,5-dicarboxylic acid bis[3-(3-pyridyl) propyl]ester (Compound 2)
2.2 g of acetoacetic acid 3-(3-pyridyl)propyl ester and 0.36 g of n-butylaldehyde were heated and refluxed in the presence of 1 ml of concentrated ammonia solution in 20 ml of isopropanol for 7 hours. After the reaction, the reaction solution was condensed to dryness under reduced pressure, the residue was dissolved in 1N hydrochloric acid, washed with ethyl acetate, then made alkaline by sodium hydroxide and extracted by ethyl acetate. The extracted solution was rinsed, then dried over anhydrous sodium sulfate and condensed to dryness under reduced pressure, then the oily substance was refined by silica gel column chromatography to obtain the target compound in an amount of 1.24 g (51.9%).

reactant | acetoacetic acid 3-(3-pyridyl)propyl ester | 2.2 g | N1=CC(=CC=C1)CCCOC(CC(=O)C)=O | C12H15NO3
reactant | ammonia | 1 ml | N | H3N
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | hydrochloric acid | 1N | Cl | ClH
product | 2,6-dimethyl-4-n-propyl-1,4-dihydropyridine-3,5-dicarboxylic acid bis[3-(3-pyridyl) propyl]ester | N1=CC(=CC=C1)CCCOC(=O)C1=C(NC(=C(C1CCC)C(=O)OCCCC=1C=NC=CC1)C)C | C28H35N3O4
